US07482341B2
5-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 5-fluoro-2-methyl-benzenesulfonyl chloride (0.057 g) as a light yellow gum (0.0476 g). MS (ESI−): 403.2 ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | 0.057 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | 5-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2-methyl-benzenesulfonamide | FC=1C=CC(=C(C1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F)C | C20H18F2N2O3S
